US08309579B2
Step d) Formation of N-hydroxy-N-((2S)-2-{[4-(4-methoxyphenyl)piperazin-1-yl]carbonyl}-4-methylpentyl)formamide
A solution of N-(benzyloxy)-N-((2S)-2-{[4-(4-methoxyphenyl)piperazin-1-yl]carbonyl}-4-methylpentyl)formamide (100 mg, 0.22 mmol) was hydrogenated under 1 atm of hydrogen in the presence of Pd/C (10%, 23 mg, 0.02 mmol, 0.1 eq.) for 2 h at room temperature. The mixture was filtered on a bed of cellite, evaporated to give the title product as an orange foam (60 mg, 75%). HPLC, Rt: 1.95 min (purity: 100%). M+ (LC-MS (ESI)): 364.4.

reactant | N-(benzyloxy)-N-((2S)-2-{[4-(4-methoxyphenyl)piperazin-1-yl]carbonyl}-4-methylpentyl)formamide | 0.22 mmol, 100 mg | C(C1=CC=CC=C1)ON(C=O)C[C@H](CC(C)C)C(=O)N1CCN(CC1)C1=CC=C(C=C1)OC | C26H35N3O4
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 0.02 mmol, 23 mg, 0.1 eq. | [Pd] | Pd
product | N-hydroxy-N-((2S)-2-{[4-(4-methoxyphenyl)piperazin-1-yl]carbonyl}-4-methylpentyl)formamide | 60 mg, 75% | ON(C=O)C[C@H](CC(C)C)C(=O)N1CCN(CC1)C1=CC=C(C=C1)OC | C19H29N3O4
